US08067445B2
Step 1: (3-Bromo-4-methoxy-phenyl)-acetic acid methyl ester
To (3-bromo-4-methoxy-phenyl)-acetic acid (5.226 g, 21.32 mmol) in MeOH (52 mL) was added thionyl chloride (3.1 mL, 42.65 mmol), and the reaction was stirred at room temperature for 2 hours. Once no starting material was seen by analytical LCMS, the mixture was concentrated and then diluted with CH2Cl2 and aqueous 1N NaOH. The aqueous layer was separated and extracted with CH2Cl2, and the combined organic layers were washed with H2O, dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | (3-bromo-4-methoxy-phenyl)-acetic acid | 21.32 mmol, 5.226 g | BrC=1C=C(C=CC1OC)CC(=O)O | C9H9BrO3
reactant | thionyl chloride | 42.65 mmol, 3.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 52 mL | CO | CH4O
product | (3-Bromo-4-methoxy-phenyl)-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)Br)=O | C10H11BrO3
